US07138425B2
a) 2-(5-Nitro-2-ethoxyphenyl)-5-phenylbenzoxazole
Prepared by the method of Example 40a), from 2-(5-nitro-2-fluorophenyl)-5-phenylbenzoxazole (200 mg, 0.60 mmol) and sodium ethoxide (41 mg, 0.61 mmol) the subtitle compound was obtained (197 mg, 91%). 1H NMR (DMSO) δ 8.92(d, 1H), 8.51(dd, 1H), 8.18(s, 1H), 7.95(d, 1H), 7.83(d, 2H), 7.56(t, 3H), 7.47(t, 3H), 4.50(q, 2H), 1.57(t, 3H).

reactant | 2-(5-nitro-2-fluorophenyl)-5-phenylbenzoxazole | 0.60 mmol, 200 mg | [N+](=O)([O-])C=1C=CC(=C(C1)C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2)F | C19H11FN2O3
reactant | sodium ethoxide | 0.61 mmol, 41 mg | [O-]CC.[Na+]
product | 2-(5-Nitro-2-ethoxyphenyl)-5-phenylbenzoxazole | [N+](=O)([O-])C=1C=CC(=C(C1)C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2)OCC | C21H16N2O4
